US08357703B2
b) 4-Iodo-3-isobutoxy-5-methyl-isoxazole
To a stirred solution of 3-isobutoxy-5-methyl-isoxazole (570 mg, 3.67 mmol) in AcOH (15 mL) and water (18 mL) at ambient temperature was added ICl (716 mg, 4.40 mmol) and the reaction mixture heated at 80° C. After 2 h the reaction mixture was cooled to room temperature. After 14 h, a solution of sodium sulfite (Na2SO3, 1 g) in water (15 mL) was added and the reaction mixture extracted into ethyl acetate (2×50 mL). The combined extracts were washed with water (3×30 ml) and brine then dried over sodium sulfate, filtered and concentrated. Purification by chromatography (silica, 0-10% ethyl acetate in heptane) gave the title compound (706 mg, 68%) as a colourless liquid.

reactant | 3-isobutoxy-5-methyl-isoxazole | 3.67 mmol, 570 mg | C(C(C)C)OC1=NOC(=C1)C | C8H13NO2
reactant | ICl | 4.40 mmol, 716 mg | ICl | ClI
reactant | sodium sulfite | 1 g | S(=O)([O-])[O-].[Na+].[Na+]
solvent | AcOH | 15 mL | CC(=O)O | C2H4O2
solvent | water | 18 mL | O | H2O
solvent | water | 15 mL | O | H2O
product | 4-Iodo-3-isobutoxy-5-methyl-isoxazole | 706 mg, 68% | IC=1C(=NOC1C)OCC(C)C | C8H12INO2
